US07705034B2
To a solution of crude methyl-(6-methyl-1H-indol-3-ylmethyl)-amine (87 mg) in acetonitrile (1 ml) was added diisopropylethyl amine (0.25 ml) and 4-nitrophenyl formate (90 mg) and stirring was continued for 3 h. The mixture was diluted with methanol and acetic acid evaporated and the residue was chromatographed on silica using n-heptane/AcOEt (1:1) to give N-methyl-N-(6-methyl-1H-indol-3-ylmethyl)-formamide as a colorless oil. MS: 202.9 ([M]+).

reactant | methyl-(6-methyl-1H-indol-3-ylmethyl)-amine | 87 mg | CNCC1=CNC2=CC(=CC=C12)C | C11H14N2
reactant | diisopropylethyl amine | 0.25 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-nitrophenyl formate | 90 mg | C(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H5NO4
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
solvent | methanol | CO | CH4O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-methyl-N-(6-methyl-1H-indol-3-ylmethyl)-formamide | CN(C=O)CC1=CNC2=CC(=CC=C12)C | C12H14N2O
